US08252935B2
a) 4-Methyl-2-{4′-trifluoromethyl-5-[1-(2-trifluoromethyl-benzenesulfonyl)-piperidin-3-yl]-biphenyl-3-yl}-pentanoic acid ethyl ester
To a solution of compound 33b, 4-Methyl-2-(5-piperidin-3-yl-4′-trifluoromethyl-biphenyl-3-yl)-pentanoic acid ethyl ester (30.5 mg, 0.07mmol) in anhydrous CH2Cl2 (4 ml) was added 2-(Trifluoromethyl)benzene sulfonyl chloride (25.0 mg, 0.10 mmol) and diisopropylethylamine (24 μl, 0.14 mmol). The reaction stirred at room temperature 3 hours, was diluted with EtOAc and washed with sat. NaHCO3, and brine, dried and filtered. Purification by silica gel chromatography (Isco) gave the desired product, (35.4 mg, 79% ). Calcd for C33H35F6NO4S (M+H) 655.69, Found 656.2.

reactant | 4-Methyl-2-(5-piperidin-3-yl-4′-trifluoromethyl-biphenyl-3-yl)-pentanoic acid ethyl ester | 0.07mmol, 30.5 mg | C(C)OC(C(CC(C)C)C=1C=C(C=C(C1)C1CNCCC1)C1=CC=C(C=C1)C(F)(F)F)=O | C26H32F3NO2
reactant | 2-(Trifluoromethyl)benzene sulfonyl chloride | 0.10 mmol, 25.0 mg | FC(C1=C(C=CC=C1)S(=O)(=O)Cl)(F)F | C7H4ClF3O2S
reactant | diisopropylethylamine | 0.14 mmol, 24 μl | C(C)(C)N(CC)C(C)C | C8H19N
solvent | CH2Cl2 | 4 ml | C(Cl)Cl | CH2Cl2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 4-Methyl-2-{4′-trifluoromethyl-5-[1-(2-trifluoromethyl-benzenesulfonyl)-piperidin-3-yl]-biphenyl-3-yl}-pentanoic acid ethyl ester | 35.4 mg, 79% | C(C)OC(C(CC(C)C)C=1C=C(C=C(C1)C1CN(CCC1)S(=O)(=O)C1=C(C=CC=C1)C(F)(F)F)C1=CC=C(C=C1)C(F)(F)F)=O | C33H35F6NO4S
